US03931197
A mixture of 27.6 g (0.1 mole) of α,α-diphenyl-4-piperidinemethanol, 30 g (0.12 mole) of 4-chloro-4'-cyclopentylbutyrophenone, 20 g of potassium bicarbonate and 0.1 g of potassium iodide in 250 ml of toluene and 40 ml of water is stirred on a steam bath for 88 hours. Upon cooling to room temperature the toluene layer is separated and the aqueous layer is extracted twice with 50 ml of toluene. The combined organic fractions are washed with water and saturated sodium chloride solution, dried over magnesium sulfate, and filtered. To the filtrate is added two volumes of ether, and the solution is treated with ethereal HCl. The resulting precipitate is collected and recrystallized from methanol-butanone to give 4'-cyclopentyl-4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]butyrophenone hydrochloride, M.P. 232°-234°C.

reactant | α,α-diphenyl-4-piperidinemethanol | 0.1 mole, 27.6 g | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | 4-chloro-4'-cyclopentylbutyrophenone | 0.12 mole, 30 g | ClCCCC(=O)C1=CC=C(C=C1)C1CCCC1 | C15H19ClO
reactant | potassium bicarbonate | 20 g | C([O-])(O)=O.[K+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 40 ml | O | H2O
product | 4'-cyclopentyl-4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]butyrophenone hydrochloride | Cl.C1(CCCC1)C1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | InChI=1S/C33H39NO2.ClH/c35-32(28-19-17-27(18-20-28)26-10-7-8-11-26)16-9-23-34-24-21-31(22-25-34)33(36,29-12-3-1-4-13-29)30-14-5-2-6-15-30;/h1-6,12-15,17-20,26,31,36H,7-11,16,21-25H2;1H
